US08877815B2
Synthesis of (S)-Tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamate
To a suspension of (S)-tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1-(2-cyanoethyl)-1H-tetrazol-5-yl)ethylcarbamate (300 mg, 0.662 mmol) in DCM (3 ml) at room temperature was added DBU (2 ml, 13.27 mmol), and the solution was stirred at room temperature for 1.5 hours. The reaction mixture was concentrated reduced pressure. The obtained residue was purified by reverse phase HPLC [30 to 95% ACN-water (0.1% TFA) over 10 min by Sunfire C18 column] and gave the title compound: 250 mg (yield: 94%). LCMS (condition F): 400.1 (M+1); retention time=1.28 min.

reactant | (S)-tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1-(2-cyanoethyl)-1H-tetrazol-5-yl)ethylcarbamate | 0.662 mmol, 300 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1CCC#N)NC(OC(C)(C)C)=O | C23H25ClN6O2
reactant | DBU | 13.27 mmol, 2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | (S)-Tert-butyl 2-(3′-chlorobiphenyl-4-yl)-1-(1H-tetrazol-5-yl)ethylcarbamate | yield: 94% | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C1=NN=NN1)NC(OC(C)(C)C)=O | C20H22ClN5O2
